data/oMe_Silver.jsonl
{"reaction_id": "NR-116_1-C_2-c1ccccc1_3-C(C)(C)C_4-C(C)(C)C","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(C)C(c1ccccc1)C(=O)OC(C)(C)C","N#[N+]C(C)(C)C"],"products_smiles": ["C(=O)(OC(C)(C)C)C(=N[NH]C(C)(C)C)c1ccccc1"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OC(C)(C)C)c1ccccc1)C","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)(C(=O)C)(N=NC(C)(C)C)c1ccccc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)(C(O)([O-])(C))(N=NC(C)(C)C)c1ccccc1","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OC(C)(C)C)C(=N[N-]C(C)(C)C)c1ccccc1","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OC(C)(C)C)C(=N[NH]C(C)(C)C)c1ccccc1","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
{"reaction_id": "NR-148_1-C(C)(C)C_2-CCCC(C)C_3-C_4-CCCC(C)C_5-c1ccccc1_6-CC","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(CCCC(C)C)C)(C(C)(C)C)O[Si](CCCC(C)C)(CCCC(C)C)(CCCC(C)C)","C(=O)(c1ccccc1)(CC)"],"products_smiles": ["C(C)(C)CC(=O)C(CCCC(C)C)(C)C(O)(c1ccccc1)(CC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](CCCC(C)C)(CCCC(C)C)(CCCC(C)C))(c1ccccc1)(CC)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC(=O)C(CCCC(C)C)(C)C(O[Si](CCCC(C)C)(CCCC(C)C)(CCCC(C)C))(c1ccccc1)(CC)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(=O)C(CCCC(C)C)(C)C(O)(c1ccccc1)(CC)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
{"reaction_id": "NR-217_1-C(C)C_2-CC","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C(C)C)C(CC)[Si](C)(C)C"],"products_smiles": ["C(C(C)C)=C(CC)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C(C)C)C(CC)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)C)=C(CC)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
